US08404684B2
Step 2) [2-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester
N-Hydroxy-propionamidine (0.10 g, 1.15 mmol) in DMF (2 ml) is added to a stirred suspension of sodium hydride (0.05 g of a 60% dispersion in oil, 1.26 mmol) in DMF (20 ml) in the presence of molecular sieves (0.1 g). The reaction flask is then immersed in a pre-heated oil bath at 50° C. and stirring continued for 5 min. 3-tert-Butoxycarbonylamino-propionic acid ethyl ester (0.25 g, 1.15 mmol) in DMF (2 ml) is added over 5 minutes. After 3 hours at 50° C. the mixture is cooled to 0° C. and water (3 ml) is added. The mixture is allowed to warm to room temperature then filtered through Celite™ filter material, washing with ethyl acetate, and the solvent is removed. Purification by chromatography, eluting with hexane:ethyl acetate (3:1) affords the titled compound.

reactant | N-Hydroxy-propionamidine | 1.15 mmol, 0.10 g | ONC(CC)=N | C3H8N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-tert-Butoxycarbonylamino-propionic acid ethyl ester | 1.15 mmol, 0.25 g | C(C)OC(CCNC(=O)OC(C)(C)C)=O | C10H19NO4
reactant | water | 3 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | [2-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=NC(=NO1)CC)=O | C11H19N3O3
